US04396622
2,4-Dimethyl-1-[3-(4-iodobenzenesulphonamido)propyl]pyrrolidine (20)
A solution of 2,4-dimethyl-1-(3-aminopropyl)pyrrolidine (4.7 g, 0.03 mol) in benzene (20 ml) was added dropwise to a solution of 4-iodobenzenesulphonylchloride (9.1 g, 0.03 mol) benzene (80 ml). After stirring the resulting mixture for six hours at room temperature, the reaction product separated as an oil. The reaction mixture was evaporated, and the residue was dissolved in absolute alcohol (800 ml) and boiled with charcoal.

reactant | 2,4-dimethyl-1-(3-aminopropyl)pyrrolidine | 0.03 mol, 4.7 g | CC1N(CC(C1)C)CCCN | C9H20N2
reactant | 4-iodobenzenesulphonylchloride | 0.03 mol, 80 ml, 9.1 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2,4-Dimethyl-1-[3-(4-iodobenzenesulphonamido)propyl]pyrrolidine | CC1N(CC(C1)C)CCCNS(=O)(=O)C1=CC=C(C=C1)I | C15H23IN2O2S
